US06465493B1
Example 28: 4(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-pyrrol-2-yl)benzamide
4-(3-Benzo[1,3]dioxol-5-yl-4-oxo4-pyridin-2-ylbutanoyl)benzamide (1.69 g; 4.2 mmol) and ammonium acetate (2.1 g; 27.3 mmol) were reacted together according to the method described in Bioorg. Med. Chem. Letters, 1998, 8, 2689-2694. The title compound was isolated as a brown powder from methanol (126 mg; 8%). 1H NMR (DMSO) δ: 6.04 (2H, s), 6.82-6.93 (4H, m), 7.18-7.32 (3H, m), 7.63-7.74 (1H, m), 7.86-7.96 (5H, m), 8.61 (1H, d, J=4 Hz), 11.63 (1H, brs); m/z (LCMS): 383.9 (M+H)+.

reactant | 4-(3-Benzo[1,3]dioxol-5-yl-4-oxo4-pyridin-2-ylbutanoyl)benzamide | 4.2 mmol, 1.69 g | O1COC2=C1C=CC(=C2)C(CC(=O)C2=CC=C(C(=O)N)C=C2)C(C2=NC=CC=C2)=O | C23H18N2O5
reactant | ammonium acetate | 27.3 mmol, 2.1 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 126 mg | CO | CH4O
product | 4(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-pyrrol-2-yl)benzamide | O1COC2=C1C=CC(=C2)C=2C=C(NC2C2=NC=CC=C2)C2=CC=C(C(=O)N)C=C2 | C23H17N3O3
